US07790714B2
(S)-3-(4′-Fluoro-biphenyl-4-yl)-2-{[(3S,7S)-3-(4-hydroxy-phenyl)-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-propionic acid methyl ester (57 mg, LC/MS: m/z 729) was prepared from (3S,7S)-3-(4-hydroxy-phenyl)-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carboxylic acid (70 mg) and (S)-2-amino-3-(4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester hydrochloride using general procedure A.

reactant | (3S,7S)-3-(4-hydroxy-phenyl)-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carboxylic acid | 70 mg | OC1=CC=C(C=C1)[C@H]1C(N(C2=CC=3C[C@H](N(CC3C=C2O1)[C@@H](CC)C1=CC=CC=C1)C(=O)O)C)=O | C28H28N2O5
reactant | (S)-2-amino-3-(4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)F)N)=O
product | (S)-3-(4′-Fluoro-biphenyl-4-yl)-2-{[(3S,7S)-3-(4-hydroxy-phenyl)-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-propionic acid methyl ester | 57 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)F)NC(=O)[C@H]1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)O)[C@@H](CC)C1=CC=CC=C1)=O | C44H42FN3O6
